US06984646B2
4-(4-Chlorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 25 with 80 mg (0.23 mmol) of 1-(4-Chlorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride (example XXXXI), 19.5 mg (0.46 mmol) of sodium methylate and 96.8 mg (0.23 mmol) methyl propiolate.

reactant | 1-(4-Chlorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone hydrochloride | 0.23 mmol, 80 mg | Cl.ClC1=CC=C(C=C1)C(CC1=NC2=C(N1)CCCC2)=O
reactant | sodium methylate | 0.46 mmol, 19.5 mg | C[O-].[Na+]
reactant | methyl propiolate | 0.23 mmol, 96.8 mg | C(C#C)(=O)OC | C4H4O2
product | 4-(4-Chlorobenzoyl)-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | ClC1=CC=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=C1 | C18H15ClN2O2
